US05134128
3-(2-Pyridyl)propyl tributylstannylmethyl ether
Potassium hydride (52 mg, 1.30 mmol) was added to a solution of 3-(2-pyridyl)propan-1-ol (161.8 mg, 1.18 mmol) in tetrahydrofuran (3 ml) at room temperature under argon. After 30 minutes, a solution of tributylstannylmethyl iodide (510 mg, 1.18 mmol) in tetrahydrofuran (0.5 ml) was added. After stirring was continued at room temperature for 9 days, the mixture was diluted with ether and washed thoroughly with water. Evaporation of the dried (magnesium sulphate) organic layer gave an oil, which was flash chromatographed on silica using 60% ethyl ether/hexane. Fractions with Rf of about 0.53 on evaporation gave the title ether as a bright yellow oil.

reactant | Potassium hydride | 1.30 mmol, 52 mg | [H-].[K+]
reactant | 3-(2-pyridyl)propan-1-ol | 1.18 mmol, 161.8 mg | N1=C(C=CC=C1)CCCO | C8H11NO
reactant | tributylstannylmethyl iodide | 1.18 mmol, 510 mg | C(CCC)[Sn](CCCC)(CCCC)CI
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-(2-Pyridyl)propyl tributylstannylmethyl ether | C(CCC)[Sn](CCCC)(CCCC)COCCCC1=NC=CC=C1 | InChI=1S/C9H12NO.3C4H9.Sn/c1-11-8-4-6-9-5-2-3-7-10-9;3*1-3-4-2;/h2-3,5,7H,1,4,6,8H2;3*1,3-4H2,2H3;
